US04384116
100 g of 1-(2-methyl-3-phenyl-propyl)-piperidine are added to 375 ml of methylene chloride. 255 g of 95-96% sulfuric acid are then added dropwise over a 1.5 hour period with rapid stirring while cooling with brine to an internal temperature of 10° C. The mixture is warmed to 20° C. and 42.5 g of tert.-butanol are added dropwise. The mixture is reacted at room temperature for 2 hours. The work-up is analogous to that described in Example 1. The crude product is purified by fractional distillation on a Goodloe silver column to yield pure 1-[3-(p-tert.butyl-phenyl)-2-methyl-propyl]-piperidine, b.p. 118° C./0.07 Torr.

reactant | 1-(2-methyl-3-phenyl-propyl)-piperidine | 100 g | CC(CN1CCCCC1)CC1=CC=CC=C1 | C15H23N
reactant | methylene chloride | 375 ml | C(Cl)Cl | CH2Cl2
reactant | sulfuric acid | 255 g | S(O)(O)(=O)=O | H2O4S
reactant | tert.-butanol | 42.5 g | C(C)(C)(C)O | C4H10O
solvent | brine | [Cl-].[Na+].O
product | 1-[3-(p-tert.butyl-phenyl)-2-methyl-propyl]-piperidine | C(C)(C)(C)C1=CC=C(C=C1)CC(CN1CCCCC1)C | C19H31N
